US07622496B2
To a solution of (2S,4R) methyl-4-benzamido-1-(2-(tert-butoxycarbonyl-amino)acetyl)pyrrolidine-2-carboxylate (23.33 g, 0.0575 mol) in methanol (450 mL) was added NaOH (0.2875 mol, 144 mL of 2N aqueous solution) at −1 to 1° C. over 15 min. The mixture was stirred at −5 to −1° C. for 2.5 h. HCl (0.2875 mol, 144 mL of 2N aqueous solution) was added at −3 to 1° C. over 25 min. MeOH was distilled off under vacuum, then 500 mL of EtOAc was added. The aqueous phase was saturated with NaCl and the phases were separated. The aqueous phase was extracted with 2×250 mL EtOAc and the combined EtOAc solution was dried over MgSO4, and concentrated to afford 22.54 g of (2S,4R) 4-benzamido-1-(2-(tert-butoxycarbonylamino)acetyl)pyrrolidine-2-carboxylic acid as a white foamy solid (contains 6.6 wt % EtOAc; 94% yield adjusted to residual EtOAc). 1H NMR (CD3OD, δ, ppm): 7.87-7.79 (m, 2 H), 7.58-7.42 (m, 3 H), 4.81-4.7 (m 1 H), 4.69-4.56 (m, 1 H), 4.05-3.72 (m, 3 H), 3.67-3.49 (m, 1 H), 2.64-2.28 (m, 2 H), 1.43 (s, 9 H). MS (m/z, positive ESI) for M+H: 392; for M+Na: 414.

reactant | (2S,4R) methyl-4-benzamido-1-(2-(tert-butoxycarbonyl-amino)acetyl)pyrrolidine-2-carboxylate | 0.0575 mol, 23.33 g | COC(=O)[C@H]1N(C[C@@H](C1)NC(C1=CC=CC=C1)=O)C(CNC(=O)OC(C)(C)C)=O | C20H27N3O6
reactant | NaOH | 0.2875 mol, 2N, 144 mL | [OH-].[Na+]
reactant | HCl | 0.2875 mol, 2N, 144 mL | Cl | ClH
solvent | methanol | 450 mL | CO | CH4O
product | (2S,4R) 4-benzamido-1-(2-(tert-butoxycarbonylamino)acetyl)pyrrolidine-2-carboxylic acid | 22.54 g, 94% yield | C(C1=CC=CC=C1)(=O)N[C@@H]1C[C@H](N(C1)C(CNC(=O)OC(C)(C)C)=O)C(=O)O | C19H25N3O6
